US04431808
A mixture of 55.7 g of crude 2-chloromethyl-4-(trifluoromethylthio)chlorobenzene, 23 g of potassium acetate, 150 ml of dimethyl sulfoxide and 10 g of triethylbenzylammonium chloride is stirred for 5 hours at 60° C. It is decomposed by pouring into water, extracted with benzene and the benzene evaporated. The oily residue is dissolved in 200 ml of ethanol, 100 ml of water and 20 ml of hydrochloric acid are added and the mixture is stirred and refluxed for 7 hours. Ethanol is distilled off, the residue mixed with water and extracted with benzene. The oil obtained by evaporation of the dried extract, is distilled in vacuo. There are obtained 40.2 g crude 2-chloro-5-(trifluoromethylthio)benzyl alcohol boiling at 140°-150° C./2 kPa. According to the 1H-NMR spectrum the product contains approximately 80% of the named compound and the remainder is the position isomer. In this state the substance is suitable for further processing.

reactant | 2-chloromethyl-4-(trifluoromethylthio)chlorobenzene | 55.7 g | ClCC1=C(C=CC(=C1)SC(F)(F)F)Cl | C8H5Cl2F3S
reactant | potassium acetate | 23 g | C(C)(=O)[O-].[K+]
reactant | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
catalyst | triethylbenzylammonium chloride | 10 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | O | H2O
product | 2-chloro-5-(trifluoromethylthio)benzyl alcohol | 40.2 g | ClC1=C(CO)C=C(C=C1)SC(F)(F)F | C8H6ClF3OS
